US09062207B2
Compound 8-bromo-2-(2,6-diisopropylphenyl)-1H-benzo[5,10]anthra[2,1,9-def]isoquinoline-1,3(2H)-dione (9.0 g), 2-aminobenzenthiol (2.19 g, 10% excess) and anhydrous potassium carbonate (1.10 g) were added to 100 mL of N-methyl-2-pyrrolidinone (NMP). The solution was heated rapidly and refluxed for 30 min. After a minute the liquor was added to 2% aqueous hydrochloride acid (750 ml) and after standing overnight, filtered and dried at 105° C. to give a red-blue solid of 8-((2-aminophenyl)thio)-2-(2,6-diisopropylphenyl)-1H-benzo[5,10]anthra[2,1,9-def]isoquinoline-1,3(2H)-dione (8.31 g) with a nominal yield of 86.3%. 8-((2-aminophenyl)thio)-2-(2,6-diisopropylphenyl)-1H-benzo[5,10]anthra[2,1,9-def]isoquinoline-1,3(2H)-dione (5.15 g) was dissolved in warm glacial acetic (31 mL) and concentration hydrochloride acid (3.1 mL) giving a fine suspension. The suspension was cooled to 0° C. and a solution of sodium nitrite (0.6 g) in water (9 mL) added and stirred continuously till clear. The prepared solution was added to a boiling solution of hydrated cupric sulphate (9.7 g) in water (150 mL) with good stirring within 1 hour. After boiling a further 1 hour, the solution was cooled, filtered and a blue solid was given. The solid was washed with a warm solution of sodium hydroxide (50 mL, 3%) three times and purified on chromatography column to eliminate by-products. The blue solid of 2-(2,6-diisopropylphenyl)-1H-thioxantheno[2′,1′,9′:10,5,6]anthra[2,1,9-def]isoquinoline-1,3(2H)-dione (1.82 g) was given with a nominal yield of 36.5%. MS: base peak 587.

reactant | 8-bromo-2-(2,6-diisopropylphenyl)-1H-benzo[5,10]anthra[2,1,9-def]isoquinoline-1,3(2H)-dione | 9.0 g | BrC1=C2C=3C(C4=CC=C5C(N(C(C=6C=CC(=C4C56)C3C=C1)=O)C1=C(C=CC=C1C(C)C)C(C)C)=O)=CC=C2 | C34H26BrNO2
reactant | 2-aminobenzenthiol | 2.19 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | potassium carbonate | 1.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloride | 750 ml | Cl | ClH
solvent | N-methyl-2-pyrrolidinone | 100 mL | CN1C(CCC1)=O | C5H9NO
product | 8-((2-aminophenyl)thio)-2-(2,6-diisopropylphenyl)-1H-benzo[5,10]anthra[2,1,9-def]isoquinoline-1,3(2H)-dione | 8.31 g, yield of 86.3% | NC1=C(C=CC=C1)SC1=C2C=3C(C4=CC=C5C(N(C(C=6C=CC(=C4C56)C3C=C1)=O)C1=C(C=CC=C1C(C)C)C(C)C)=O)=CC=C2 | C40H32N2O2S
